US04957916
A solution of 4.4 parts of 6-[2-[4-[(2,4-difluorophenyl)(hydroxyimino)methyl]-1-piperazinyl]ethyl]-2,3-dihydro-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one in 45 parts of tetrahydrofuran was stirred at room temperature. 0.5 Parts of a sodium hydride dispersion 50% were added portionwise. Upon complete addition, 108 parts of methylbenzene were added and the reaction mixture was stirred for 18 hours at reflux temperature. After cooling, 16 parts of ethanol were added, followed by the addition of 3 parts of acetic acid. The whole was stirred for 10 minutes. The mixture was treated with ammonium hydroxide and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 3.8 parts (91.4%) of 6-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperazinyl]ethyl]-2,3-dihydro-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one; mp. 193.0° C. (compound 3).

reactant | 6-[2-[4-[(2,4-difluorophenyl)(hydroxyimino)methyl]-1-piperazinyl]ethyl]-2,3-dihydro-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one | FC1=C(C=CC(=C1)F)C(N1CCN(CC1)CCC1=C(N=C2N(C1=O)CCS2)C)=NO | C20H23F2N5O2S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | 6-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperazinyl]ethyl]-2,3-dihydro-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one | 91.4% | FC1=CC2=C(C(=NO2)N2CCN(CC2)CCC2=C(N=C3N(C2=O)CCS3)C)C=C1 | C20H22FN5O2S
